US04456594
A mixture of 6.28 g (0.0332 m) of N-tert.-butoxycarbonyl-β-alanine, 5.0 g (0.0332 m) of L-proline amide hydrochloride, 8.96 g (0.0664 m) of 1-hydroxybenzotriazole, 12 ml of N-methylmorpholine, 75 ml of tetrahydrofuran, 40 ml of dimethylformamide and 6.84 g (0.0332 m) of dicyclohexylcarbodiimide was stirred at 25° for 17 hours. The solvents were evaporated in vacuo and the residue dissolved in ethyl acetate and water. The separated organic layer was washed with small volumes of dilute hydrochloric acid, brine, 5% bicarbonate and brine. The dried extract was concentrated to give 3.2 g of syrupy N-tert.-butoxycarbonyl-β-alanyl-L-proline amide. The methane chemical ionization mass spectrum was in agreement with the dipeptide structure.

reactant | N-tert.-butoxycarbonyl-β-alanine | 6.28 g | C(C)(C)(C)OC(=O)NCCC(=O)O | C8H15NO4
reactant | L-proline amide hydrochloride | 5.0 g | Cl.N1[C@H](C(=O)N)CCC1
reactant | 1-hydroxybenzotriazole | 8.96 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | N-methylmorpholine | 12 ml | CN1CCOCC1 | C5H11NO
reactant | dicyclohexylcarbodiimide | 6.84 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 75 ml | O1CCCC1 | C4H8O
product | N-tert.-butoxycarbonyl-β-alanyl-L-proline amide | 3.2 g | C(C)(C)(C)OC(=O)NCCC(=O)N1[C@H](C(=O)N)CCC1 | C13H23N3O4
